US07855216B2
Step 2: 4-Chloro-5-fluoronicotinonitrile
To a suspension of 4-chloro-5-fluoro-pyridine-3-carbaldehyde oxime (6.8 g, 39.0 mmol) in dichloromethane (150 ml) was added carbonyl diimidazole (9.5 g, 58.5 mmol). The mixture was then heated at reflux for 30 minutes before cooling to room temperature, before being washed with saturated aqueous sodium bicarbonate followed by water. The organic layer was dried over sodium sulfate and concentrated in vacuo and the resultant residue triturated in diethyl ether/cyclohexane to afford the title compound as a pale yellow solid (4.05 g, 79%). 1H NMR (CDCl3) 8.71 (1H, d, J=0.4 Hz), 8.70 (1H, s).

reactant | 4-chloro-5-fluoro-pyridine-3-carbaldehyde oxime | 39.0 mmol, 6.8 g | ClC1=C(C=NC=C1F)C=NO | C6H4ClFN2O
reactant | carbonyl diimidazole | 58.5 mmol, 9.5 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-Chloro-5-fluoronicotinonitrile | 4.05 g, 79% | ClC1=C(C=NC=C1C#N)F | C6H2ClFN2
